US07842696B2
DIPEA (99 mg, 0.13 mL, 0.76 mmol) was added to a stirred solution of {[5-(2-methoxy-phenyl)-1H-pyrazole-3-carbonyl]-amino}-acetic acid (60 mg, 0.21 mmol) in DMF (2 mL). HOBT (34 mg, 0.25 mmol) and EDCI (49 mg, 0.25 mmol) were then added at room temperature. After 2 minutes, piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt (64.3 mg, 0.21 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated to afford 40 mg (35.7% yield) of 5-(2-methoxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 97.45%. 1H NMR (DMSO-d6): δ 13.5 (s, 1H), 8.0 (m, 1H), 7.62 (m, 4H), 7.5 (m, 1H), 7.3 (m, 1H), 7.16 (m, 1H), 7.01 (m, 2H), 4.1 (d, 2H), 3.84 (s, 3H), 3.6 (m, 2H), 3.56 (m, 2H), 3.36 (m, 2H), 3.1 (m, 2H).

reactant | DIPEA | 0.76 mmol, 0.13 mL, 99 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | {[5-(2-methoxy-phenyl)-1H-pyrazole-3-carbonyl]-amino}-acetic acid | 0.21 mmol, 60 mg | COC1=C(C=CC=C1)C1=CC(=NN1)C(=O)NCC(=O)O | C13H13N3O4
reactant | HOBT | 0.25 mmol, 34 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.25 mmol, 49 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt | 0.21 mmol, 64.3 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-methoxy-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 40 mg, 35.7% yield | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)OC)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H24F3N5O4
